US09226922B2
A solution of (R)-1-(3-(difluoromethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (58.5 mg, 0.099 mmol) in TFA (2 mL) was stirred at room temperature for 2.5 h. The reaction mixture was diluted with DMSO (2 mL) and purified by mass-triggered reverse-phase HPLC. The fractions containing pure product were freebased with a PL-HCO3 cartridge and concentrated in vacuo to give (R)-1-(3-(difluoromethoxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C16H15F2N5O2 [M+1]+ 348. found 348. 1H NMR (500 MHz, DMSO-d6) δ 9.03 (s, 1H), 8.66 (s, 1H), 7.64 (m, 2H), 7.52 (t, J=7.3 Hz, 1H), 7.32 (m, 4H), 7.23 (m, 1H), 4.85 (m, 1H), 1.39 (d, J=7.0 Hz, 3H). Example 53 was prepared according to Scheme 3 method A following similar procedures described for Example 52, which can be achieved by those of ordinary skill in the art of organic synthesis.

reactant | (R)-1-(3-(difluoromethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.099 mmol, 58.5 mg | FC(OC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)F | C35H29F2N5O2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (R)-1-(3-(difluoromethoxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | FC(OC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)F | C16H15F2N5O2
